US06521663B2
4. 2-{3-[2,2-Difluoro-2-(4-fluoronaphthyl)acetylamino]-2-fluoro-6-nitrophenyl}ethyl acetate
To a solution of DIEA (7.8 mL) and 2-(3-amino-2-fluoro-6-nitrophenyl)ethyl acetate (4.6 g, 19 mmol), prepared as in step 8 of Example 1, in DCM (60 mL) was added 2,2-difluoro-2-(4-fluoronaphthyl)acetyl chloride (prepared by refluxing 2,2-difluoro-2-(4-fluoronaphthyl)acetic acid, as prepared in the preceding step, with oxalyl chloride) (7.8 g, 30 mmol) in DCM (40 mL). The mixture was stirred at room temperature for 1 hour. Additional DCM (100 ML) was added, and the resulting mixture was washed with 10% citric acid (3×40 mL) and brine, and dried over Na2SO4. After evaporating the solvent, the residue was purified by flash column chromatography eluting with DCM to give the title compound (5.3 g, 61%) as a yellow oil. 1H-NMR (400 MHz, CDCl3) δ 8.45 (m, 2H), 8.21 (d, J=7.0 Hz, 2H), 7.87 (s, 1H), 7.85 (t, J=4.1 Hz, 1H), 7.66 (m, 2H),7.22 (t, J=8.3 Hz, 1H), 4.34 (t, J=6.4 Hz, 2H), 3.36 (t, J=6.4 Hz, 2H), 2.00 (s, 3H).

reactant | DIEA | 7.8 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 2-(3-amino-2-fluoro-6-nitrophenyl)ethyl acetate | 19 mmol, 4.6 g | C(C)(=O)OCCC1=C(C(=CC=C1[N+](=O)[O-])N)F | C10H11FN2O4
reactant | 2,2-difluoro-2-(4-fluoronaphthyl)acetyl chloride | FC(C(=O)Cl)(C1=CC=C(C2=CC=CC=C12)F)F | C12H6ClF3O
reactant | 2,2-difluoro-2-(4-fluoronaphthyl)acetic acid | FC(C(=O)O)(C1=CC=C(C2=CC=CC=C12)F)F | C12H7F3O2
reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | DCM | 60 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 40 mL | C(Cl)Cl | CH2Cl2
product | 2-{3-[2,2-Difluoro-2-(4-fluoronaphthyl)acetylamino]-2-fluoro-6-nitrophenyl}ethyl acetate | 5.3 g, 61% | C(C)(=O)OCCC1=C(C(=CC=C1[N+](=O)[O-])NC(C(C1=CC=C(C2=CC=CC=C12)F)(F)F)=O)F | C22H16F4N2O5
